US07419969B2
N-(4-Fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzyl)-9-(chloromethyl)-3-hydroxy-9-(hydroxymethyl)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of ethyl 9-(acetoxymethyl)-3-(benzyloxy)-9-(chloromethyl)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate (1.0 g) in trifluoroacetic acid (5 mL) CH2Cl2 (5 mL) was stirred for 2 hrs. An aliquot was transferred to a separate reaction flask and concentrated to give des-OBn intermediate (0.363 g, 1.01 mmol). This was immediately dissolved in dimethylfomamide (2 mL) and ethanol (2 mL) and treated with (4-fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzylamine hydrochloride (0.320 g, 1.31 mmol) and triethyl amine (0.75 mL, 5.2 mmol), and heated (90° C.) for 5 hrs. To the reaction was added Cs2CO3 (0.340 g, 1.1 mmol) and water (1 mL) and the reaction stirred for 2.5 hrs. The reaction was concentrated in-vacuo and the resultant crude material was suspended in water (10 mL) and extracted into CH2Cl2 (2×10 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to give a solid which was then triturated with a small volume of 95% ethanol. The resultant precipitate was collected by filtration and dried in-vacuo to give the title compound as a white crystalline solid: 1H NMR (500 MHz, CDCl3) δ ppm 12.18-12.31 (1H, m), 8.49 (1H, t, J=6.26 Hz), 8.32 (1H, s), 7.67 (1H, dd, J=8.39, 5.95 Hz), 7.19 (1H, dt, J=8.16, 2.29 Hz), 7.08 (1H, dd, J=8.39, 2.29Hz), 5.29 (2H, s), 4.54 (1H, dd, J=14.19, 6.87 Hz), 4.19-4.27 (1H, m), 4.12-4.18 (1H, m), 4.10 (2H, t, J=4.58 Hz), 4.00 (2H, t, J=12.21 Hz), 3.90-3.96 (2H, m), 2.55 (3H, s); 13C NMR (126 MHz, CDCl3) δ ppm 167.69, 163.26, 162.49, 157.34, 147.41, 146.32, 144.26, 134.31, 134.24, 128.45, 128.42, 125.59, 116.93, 116.76, 112.41, 112.21, 80.41, 66.93, 60.79, 53.52, 48.62, 42.47, 39.41, 14.12; HRMS ESI) calcd for C20H21N6O5FCl (M+H) 479.1246, found 479.1224; Elem. Anal. calcd for C20H20N6O5FCl: C 49.79, H 4.26, N 17.42, found: C 50.11, H 4.10, N 17.28.

reactant | ethyl 9-(acetoxymethyl)-3-(benzyloxy)-9-(chloromethyl)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 1.0 g | C(C)(=O)OCC1(OCCN2C1=NC(=C(C2=O)OCC2=CC=CC=C2)C(=O)OCC)CCl | C21H23ClN2O7
reactant | 4-fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzylamine hydrochloride | 1.31 mmol, 0.320 g | Cl.FC1=CC(=C(CN)C=C1)N1N=C(N=C1)C
reactant | triethyl amine | 5.2 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | Cs2CO3 | 1.1 mmol, 0.340 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | N-(4-Fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzyl)-9-(chloromethyl)-3-hydroxy-9-(hydroxymethyl)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2O)=O)(CO)CCl)C=C1)N1N=C(N=C1)C | C20H20ClFN6O5
